US07176242B2
Step 7: 1-Butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-4-[methyl(methylsulfonyl)amino]-1H-indole-6-carboxamide
To a mixture of 1-Butyl-4-[methyl (methylsulfonyl) amino]-1H-indole-6-carboxylic acid (0.2 g) in methylene chloride (15 mL) was added triethylamine (0.156 g), HOBT (0.105 g), and HATU (0.293 g). The mixture was stirred at 39° C. for 10 minutes at which time (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (0.293 g) was added. The mixture was stirred at 40° C. for 4 h then poured into methylene chloride (50 mL), washed with water followed by brine then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Column chromatography on silica gel (100 mL) using 5% methanol in methylene chloride as eluent to give 0.21 g of the title compound: MS (ESI+) for C34H42F2N4O4S1 m/z 640.8 (M+H).

reactant | 1-Butyl-4-[methyl (methylsulfonyl) amino]-1H-indole-6-carboxylic acid | 0.2 g | C(CCC)N1C=CC2=C(C=C(C=C12)C(=O)O)N(S(=O)(=O)C)C | C15H20N2O4S
reactant | HOBT | 0.105 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HATU | 0.293 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 0.293 g | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.156 g | C(C)N(CC)CC | C6H15N
product | 1-Butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-4-[methyl(methylsulfonyl)amino]-1H-indole-6-carboxamide | 0.21 g | C(CCC)N1C=CC2=C(C=C(C=C12)C(=O)N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F)N(S(=O)(=O)C)C | C34H42F2N4O4S
